US04994486
Step 4: [1R,3S] 1-Azidomethyl-3,4-dihydro-3-hydroxymethyl-5-methoxy-8-methyl-1H-2-benzopyran
Lithium azide (1.0 g, 20 mmol) is added to a solution of [1R,3S] 1-bromomethyl-3,4-dihydro-3-hydroxymethyl-5-methoxy-8-methyl-1H-2-benzopyran (1.77 g, 5.87 mmol), from Step 3, in 20 mL of DMF. The reaction mixture is heated to 70° C. for 1.5 h then cooled to ambient temperature and poured into 50 mL of diethyl ether and 50 mL of water. The layers are separated and the aqueous layer is extracted with 2×50 mL of diethyl ether. The combined ether layers are washed with saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by column chromatography on silica gel to give the title compound.

reactant | Lithium azide | 20 mmol, 1.0 g | [N-]=[N+]=[N-].[Li+]
reactant | [1R,3S] 1-bromomethyl-3,4-dihydro-3-hydroxymethyl-5-methoxy-8-methyl-1H-2-benzopyran | 5.87 mmol, 1.77 g | BrC[C@@H]1O[C@@H](CC2=C1C(=CC=C2OC)C)CO | C13H17BrO3
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
reactant | water | 50 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | [1R,3S] 1-Azidomethyl-3,4-dihydro-3-hydroxymethyl-5-methoxy-8-methyl-1H-2-benzopyran | N(=[N+]=[N-])C[C@@H]1O[C@@H](CC2=C1C(=CC=C2OC)C)CO | C13H17N3O3
